US08466290B2
Thionyl chloride (3 mL) was added to a dichloromethane (10 mL) solution of 3-furancarboxylic acid (2.50 g, 22.3 mmol) under ice cooling, and the mixture was heated to reflux for 2 hours. The solvent was distilled off. After that, the residue was concentrated by the addition of toluene and added to a THF (50 mL) solution of thiosemicarbazide (4.47 g, 49.1 mmol) under ice cooling, and the mixture was stirred overnight at room temperature. To the reaction solution, a saturated aqueous solution of sodium bicarbonate was added. The mixture was subjected to extraction with ethyl acetate and dried over anhydrous sodium sulfate, and then, the solvent was distilled off to obtain 1-(3-furoyl)thiosemicarbazide (3.03 g, 16.4 mmol) (yield: 74%).

reactant | Thionyl chloride | 3 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 3-furancarboxylic acid | 22.3 mmol, 2.50 g | O1C=C(C=C1)C(=O)O | C5H4O3
reactant | thiosemicarbazide | 49.1 mmol, 4.47 g | NNC(=S)N | CH5N3S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 1-(3-furoyl)thiosemicarbazide | 16.4 mmol, 3.03 g, yield: 74% | O1C=C(C=C1)C(=O)NNC(=S)N | C6H7N3O2S
